US07012081B2
235 mg (1 mmol) of 2-(tetrahydropyran-4-yl)methylaminobenzoic acid is mixed in 10 ml of dimethylformamide with 266 mg (2 mmol) of 5-aminoindazole. 253 mg (2.5 mmol) of N-methylmorpholine and 456 mg (1.2 mmol) of O-(7-azabenzotriazol-1-yl)-1,1,3,3-tetamethyluronium hexafluorophosphate are added to this solution under argon and in a moisture-free environment. This mixture is stirred for 3 hours at room temperature. It is concentrated by evaporation in a vacuum, taken up in dilute sodium bicarbonate solution and extracted three times with 30 ml of ethyl acetate each. The combined organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is absorptively precipitated in ethyl acetate and suctioned off. The filtrate is concentrated by evaporation, and the residue is chromatographed on silica gel with methylene chloride:ethanol=10:1 as an eluant. 124 mg (35% of theory) of N-(indazol-5-yl)-2-(tetrahydropyran-4-yl)methylaminobenzoic acid amide with a melting point of 173.6° C. is obtained.

reactant | 2-(tetrahydropyran-4-yl)methylaminobenzoic acid | 1 mmol, 235 mg | O1CCC(CC1)CNC1=C(C(=O)O)C=CC=C1 | C13H17NO3
reactant | 5-aminoindazole | 2 mmol, 266 mg | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | N-methylmorpholine | 2.5 mmol, 253 mg | CN1CCOCC1 | C5H11NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | N-(indazol-5-yl)-2-(tetrahydropyran-4-yl)methylaminobenzoic acid amide | 124 mg, 35% | N1N=CC2=CC(=CC=C12)NC(C1=C(C=CC=C1)NCC1CCOCC1)=O | C20H22N4O2
